* Z:\home\thorsten\Elektronik\Projekte\the_pico_retro_tape\hardware\ltspice_simulations\simulation_sense_signal_control.asc
Q1 C64_SENSE_SIGNAL N002 0 0 BC547B
R1 N002 PICO_SENSE_CONTROL 10k
V1 PICO_SENSE_CONTROL 0 PULSE(0 3.3 0 0 0 1ms 2ms)
R2 N001 C64_SENSE_SIGNAL 3.3k
V2 N001 0 5v
.model NPN NPN
.model PNP PNP
.lib C:\users\thorsten\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 30ms 0 30us
* C64 Intern
.backanno
.end
